US06229011B1
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[2-(1,1-dimethylethyl)phenyl]carbonyl]-L-phenylalanine methyl ester was prepared from 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester and 2-(1,1-dimethylethyl)benzoic acid using the general procedure described in example 3. HR MS: Obs. mass. 527.1523. Calcd. mass. 527.1573 (M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | 2-(1,1-dimethylethyl)benzoic acid | CC(C)(C)C1=C(C(=O)O)C=CC=C1 | C11H14O2
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[2-(1,1-dimethylethyl)phenyl]carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)C1=C(C=CC=C1)C(C)(C)C)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C28H28Cl2N2O4
